US07053212B2
Step A: Cyclohexanecarboxylic acid [2-methoxy-4-(tetrahydro-pyran-2-yloxy)-benzyl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amide
To a solution of [2-methoxy-4-(tetrahydro-pyran-2-yloxy)-benzyl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine (0.100 g, 0.23 mmol) and triethylamine (0.10 mL, 0.70 mmol) in 2 mL methylene chloride was added cyclohexanecarbonyl chloride (0.078 mL, 0.58 mmol), dropwise. The reaction mixture was stirred for 1 hr. at room temperature. Saturated aqueous sodium bicarbonate was added and the layers were separated. The aqueous layer was washed with an additional 2 mL of methylene chloride. The combined organic layers were concentrated in vacuo to give the title compound of Step A. MS 537.2 (M+1)+

reactant | [2-methoxy-4-(tetrahydro-pyran-2-yloxy)-benzyl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine | 0.23 mmol, 0.100 g | COC1=C(CNC2=CC=C(C=C2)OCCN2CCCC2)C=CC(=C1)OC1OCCCC1 | C25H34N2O4
reactant | triethylamine | 0.70 mmol, 0.10 mL | C(C)N(CC)CC | C6H15N
reactant | cyclohexanecarbonyl chloride | 0.58 mmol, 0.078 mL | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | Cyclohexanecarboxylic acid [2-methoxy-4-(tetrahydro-pyran-2-yloxy)-benzyl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amide | COC1=C(CN(C(=O)C2CCCCC2)C2=CC=C(C=C2)OCCN2CCCC2)C=CC(=C1)OC1OCCCC1 | C32H44N2O5
